US04489003
8 g (20 mmol) of tert.butyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 25 g (300 mmol) of hydroxymethyl-cyclopropane and 1.8 g (8 mmol) of tetraethyl orthotitanate are stirred at 120° overnight, the solution is evaporated to dryness and the residue is taken up in chloroform. The solution obtained is stirred for 0.5 hour with 40 ml of a saturated potassium fluoride solution, the resulting emulsion is filtered through siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By recrystallization from ethanol there is obtained cyclopropylmethyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 212°-213°.

reactant | tert.butyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 20 mmol, 8 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18BrN3O3
reactant | hydroxymethyl-cyclopropane | 300 mmol, 25 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 8 mmol, 1.8 g | CCO.CCO.CCO.CCO.[Ti]
solvent | potassium fluoride | 40 ml | [F-].[K+]
product | cyclopropylmethyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CC3)CC1)=O | C18H16BrN3O3
